US07449475B2
(iii) 6-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidine]hydrochloride
A solution of 1′-benzyl-6-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] (1.63 g, 5.0 mmol) and 1-chloroethyl chloroformate (1.07 g, 7.5 mmol) in toluene (5 ml) was heated with reflux overnight. The solvent was removed i. vacuo, the oily residue dissolved in methanol (10 ml) and heated with reflux overnight. The solvent was removed in vacuo, and the residue treated with diethyl ether (50 ml). The white precipitate was collected by filtration, washed with diethyl ether and dried to afford the subtitle compound as white powder (0.58 g, 49%).

reactant | 1′-benzyl-6-chloro-3,4-dihydrospiro[chromene-2,4′-piperidine] | 5.0 mmol, 1.63 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=CC=C(C=C1CC2)Cl | C20H22ClNO
reactant | 1-chloroethyl chloroformate | 7.5 mmol, 1.07 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-3,4-dihydrospiro[chromene-2,4′-piperidine]hydrochloride | 0.58 g, 49% | Cl.ClC=1C=C2CCC3(CCNCC3)OC2=CC1 | InChI=1S/C13H16ClNO.ClH/c14-11-1-2-12-10(9-11)3-4-13(16-12)5-7-15-8-6-13;/h1-2,9,15H,3-8H2;1H
